data/mechanisms/records/IMS4-EQ4.6c.json
{"mechanism_id": "IMS4-EQ4.6c", "species": [{"species_id": "precursor", "mapped_smiles": "[CH3:1][CH2:2][O+:3]=[CH2:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "formaldehyde_cation", "mapped_smiles": "[O+:3]=[CH2:4]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["precursor"]}, {"state_id": "state_products", "species_ids": ["ethyl_radical", "formaldehyde_cation"]}], "steps": [{"step_id": "step_sigma_dissociation", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_dissociation", "support_type": "contradicted", "locator": {"page": 55, "equation": "4.6", "section": "4.4 Reaction classifications"}, "confidence": 0.6, "curator_note": "adduct corrected to null (convention G): the species undergoing this reaction is an EVEN-ELECTRON cation (charge +1, radical_electrons 0) - a fragment/secondary-fragmentation precursor - NOT the [M]+. radical molecular ion. UNFAVORED path (crossed by the even-electron rule): homolytic C2-O cleavage of the even-electron oxocarbenium ion would give an ethyl radical + the formaldehyde radical cation O=CH2+. -- i.e. an OE+ ion from an EE+ ion, which requires the energetically costly separation of an electron pair, so the book labels it '(unfavored)'. Book draws 0 curved arrows; the two fishhooks (one electron of the C2-O bond to each fragment) are curator-supplied for balance."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 59.0491, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ion", "species_id": "formaldehyde_cation", "step_id": "step_sigma_dissociation", "observed_mz": 30.01, "status": "rejected", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
